US06306861B1
a) Methyl 7-oxo-5-trifluoromethyl-7H-thieno[3,2-b]pyran-3-carboxylate (Compound 4A)
3.95 mL of trifluoroacetic anhydride and 9.2 mL of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) were added to a mixture of 4.10 g of methyl 2-acetyl-3-hydroxythiophene-4-carboxylate and 14 mL of pyridine at 0-5° C. The mixture was heated at 80° C. for 27 hours, during which time a total of 9.9 mL of trifluoroacetic anhydride and a total of 9.2 ml and DBU were added in three additions. The mixture was cooled to 20-25° C., poured into a mixture of ice (250 g) and 37% hydrochloric acid (50 mL), and extracted with ethyl acetate (2×80 mL). The combined organic layers were washed with water, dried over sodium sulphate and evaporated to dryness in vacuo. The residue was taken up with petroleum-ether/ethyl-acetate (7:3) and filtered. The filtrate was purified by flash chromatography using a petroleum ether/ethyl acetate gradient (7:3 to 0:1). The residue was dissolved in diethyl ether, washed with 5% aqueous sodium carbonate and water, dried over sodium sulphate and evaporated to dryness in vacuo to yield the title product (22%) melting at 148-158° C., which could be used in the next step without further purification. The analytical sample was obtained by crystallisation from ethanol. M.p. 163-164° C.

reactant | trifluoroacetic anhydride | 3.95 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 9.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl 2-acetyl-3-hydroxythiophene-4-carboxylate | 4.10 g | C(C)(=O)C=1SC=C(C1O)C(=O)OC | C8H8O4S
reactant | trifluoroacetic anhydride | 9.9 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | pyridine | 14 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 7-oxo-5-trifluoromethyl-7H-thieno[3,2-b]pyran-3-carboxylate | 22% | O=C1C2=C(OC(=C1)C(F)(F)F)C(=CS2)C(=O)OC | C10H5F3O4S
